US04329347
6-[2-(2-Naphthyl-mercapto)-ethoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril (m.p.: 147°-148° C.) and 2-naphthyl-mercaptan.

reactant | 6-(4-chlorobutoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
reactant | 2-naphthyl-mercaptan | C1=C(C=CC2=CC=CC=C12)S | C10H8S
product | 6-[2-(2-Naphthyl-mercapto)-ethoxy]-3,4-dihydro-carbostyril | C1=C(C=CC2=CC=CC=C12)SCCOC=1C=C2CCC(NC2=CC1)=O | C21H19NO2S
